US06809094B2
4-(5-BROMO-BENZOOXAZOL-2-YL)-1,4-DIAZA-BICYCLO[3.2.2]NONANE
1,4-Diazabicyclo[3.2.2]nonane (57%, 731 mg, 3.31 mmol) was added to a solution of 5-bromo-2-methylsulfanyl-benzooxazole (538 mg, 2.20 mmol) in iPrOH (4.4 mL). The mixture was placed in an oil bath at 90° C. and the solvent was evaporated. The mixture was allowed to stir neat at 90° C. for 18 h. Upon cooling to RT the mixture was purified by chromatography (Biotage, 25M) eluting with 4% MeOH in CHCl3 with 20 drops of NH4OH per liter of eluent to afford 392 mg (55%) of the title compound as an oil: 1H NMR (CDCl3, 400 MHz) δ 7.40 (t, 1H, J=1.2 Hz), 7.05 (d, 2H, J=1.2 Hz), 4.46-4.43 (m, 1H), 3.87 (t, 2H, J=5.8 Hz), 3.14-2.93 (m, 6H), 2.13-2.06 (m, 2H), 1.81-1.73 (m, 2H); 13C NMR (CDCl3, 100 MHz) δ 162.3, 148.0, 145.6, 122.9, 119.0, 116.8, 109.8, 57.2, 50.5, 46.5, 44.4, 27.0; MS (Cl) m/z 322.0 (M+1); HPLC retention time=3.36 min. The hydrochloride salt was prepared by diluting in ethyl acetate and adding a solution of 2.5 N HCl in ethyl acetate: mp>300° C.

reactant | 1,4-Diazabicyclo[3.2.2]nonane | 3.31 mmol, 731 mg | N12CCNC(CC1)CC2 | C7H14N2
reactant | 5-bromo-2-methylsulfanyl-benzooxazole | 2.20 mmol, 538 mg | BrC=1C=CC2=C(N=C(O2)SC)C1 | C8H6BrNOS
solvent | iPrOH | 4.4 mL | CC(C)O | C3H8O
product | 4-(5-BROMO-BENZOOXAZOL-2-YL)-1,4-DIAZA-BICYCLO[3.2.2]NONANE | 392 mg, 55% | BrC=1C=CC2=C(N=C(O2)N2CCN3CCC2CC3)C1 | C14H16BrN3O
